US09029451B2
Preparation of 3-Hydroxy-2,2,4-trimethylpentyl 2,2,4-trimethyl-3-oxopentanoate
To a 1-liter round bottom flask was charged 2,2,4,4-tetramethyl-1,3-cyclobutanedione (140.2 g, 1.0 moles), TMPD glycol (146.2 g, 1.0 moles) and potassium carbonate (73 g, 0.53 moles). The mixture was heated to 120° C. and held for 4 hours. Reaction was cooled and 200 mL of toluene added. Organic layer was washed 4 times at 70° C. Toluene removed to provide 275 g of product. GC assay of the product was 95.9% (4.6:1 mixture of two major isomers).

reactant | 2,2,4,4-tetramethyl-1,3-cyclobutanedione | 1.0 moles, 140.2 g | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | TMPD glycol | 1.0 moles, 146.2 g | CC(C)C(C(C)(C)CO)O | C8H18O2
reactant | potassium carbonate | 0.53 moles, 73 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Hydroxy-2,2,4-trimethylpentyl 2,2,4-trimethyl-3-oxopentanoate | 275 g | CC(C(=O)OCC(C(C(C)C)O)(C)C)(C(C(C)C)=O)C | C16H30O4
